US04612378
16.8 g of 2-mercaptobenzothiazole are suspended in 50 ml of 70% H2SO4, and 13.7 g of glutaconic acid are added at 45°-50° in the course of 30 minutes, with stirring. The reaction mixture is stirred for a further 1.5 hours at 45°-50° and the product is isolated as described in Example 5. 26 g (88% of theory) of 3-(benzothiazol-2-ylthio)-glutaric acid, of melting point 153°-154°, are obtained.

reactant | 2-mercaptobenzothiazole | 16.8 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | glutaconic acid | 13.7 g | C(C=CCC(=O)O)(=O)O | C5H6O4
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | 3-(benzothiazol-2-ylthio)-glutaric acid | 26 g, 88% | S1C(=NC2=C1C=CC=C2)SC(CC(=O)O)CC(=O)O | C12H11NO4S2
